US06136823
Synthesis of 7-Amino-1-(5-amino-2,4-difluorophenyl)-8-chloro-6-fluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
12N Hydrochloric acid (5 ml) was added to ethyl 7-amino-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6-fluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate (1.75 g), and the mixture wags stirred overnight while heating under reflux. After the reaction mixture was allowed to cool, it was neutralized with a 20% aqueous solution of sodium hydroxide, arid solids deposited were collected by filtration. The solids were washed with ethanol and dried to obtain the title compound (570 mg) as a pale brown powder.

reactant | Hydrochloric acid | 12N, 5 ml | Cl | ClH
reactant | ethyl 7-amino-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6-fluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.75 g | NC1=C(C(=C2C(C(=CN(C2=C1Cl)C1=C(C=C(C(=C1)NC(=O)OC(C)(C)C)F)F)C(=O)OCC)=O)C)F | C24H23ClF3N3O5
reactant | sodium hydroxide | [OH-].[Na+]
product | 7-Amino-1-(5-amino-2,4-difluorophenyl)-8-chloro-6-fluoro-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 570 mg | NC1=C(C(=C2C(C(=CN(C2=C1Cl)C1=C(C=C(C(=C1)N)F)F)C(=O)O)=O)C)F | C17H11ClF3N3O3
